US06441216B1
Trimethylsilyl 5-Fluoro-2-trimethylsilyloxy-benzene-sulfonate
302 g (1.57 mol) of 5-fluoro-2-hydroxybenzenesulfonic acid are admixed, under an inert gas atmosphere at room temperature with stirring, with 794 ml (683 g, 6.28 mol) of chlorotrimethylsilane, and the mixture is heated to boiling. After the vigorous release of HCl has died down, a further 794 ml of chlorotrimethylsilane are added and the turbid solution is heated under reflux for 96 hours. After cooling, the precipitate is filtered off under inert gas, the excess chlorotrimethylsilane is removed at 40-50° C. under slightly reduced pressure (about 4000 Pa) and the product is obtained by fractional distillation in vacuo.

reactant | 5-fluoro-2-hydroxybenzenesulfonic acid | 1.57 mol, 302 g | FC=1C=CC(=C(C1)S(=O)(=O)O)O | C6H5FO4S
reactant | chlorotrimethylsilane | 6.28 mol, 794 ml, 683 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | HCl | Cl | ClH
reactant | chlorotrimethylsilane | 794 ml | Cl[Si](C)(C)C | C3H9ClSi
product | Trimethylsilyl 5-Fluoro-2-trimethylsilyloxy-benzene-sulfonate | FC=1C=CC(=C(C1)S(=O)(=O)O[Si](C)(C)C)O[Si](C)(C)C | C12H21FO4SSi2
